Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
This is a ___ man, h/o CAD, Afib with RVR, LBBB transferred 
here for AVR for possibly symptomatic AS.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ speaking gentleman with history of AF on ___, HTN, 
LBBB, diabetes. For the past ___ weeks, he presented to OSH with 
complaint of an occasional stabbing sensation on his left chest. 
He says it occurs randomly, not associated with exertion, no 
radiation or associated diaphoresis, palpitations, nausea, or 
vomiting. He does have some mild SOB with the pain but no DOE, 
no limitation of his activity, no swelling that he notes.
At the OSH, an echo showed ___ 0.8cm, normal EF. Cath today with 
normal coronaries and ___ 0.68-0.72. Right radial with TR band 
on. Right ___ access now d/c’d with no bleeding. 
Transfered to ___ for AVR.

 
Past Medical History:
He reports having had an MI in ___ in the ___ 
but did not get PCI
Afib on ___
LBBB
Aortic Stenosis
HTN
 
Social History:
___
Family History:
He has no history of premature CAD or other cardiac diseases 
among first-degree relatives.

 
Physical Exam:
PHYSICAL EXAMINATION:  
VS:  AF   129/79   85   18   98%
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, ___ systolic crescendo murmur heard 
best at RUSB, no radiation to carotids, no rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal 

DISCHARGE EXAMINATION:
VS: 97.9  117-123/62-64  65-68   20  98-100% 
Telemetry- HR in the ___, a-fib
GENERAL: AA OX3 NAD, breathing comfortably completely recumbent 
on CPAP  
HEENT: NCAT. PERRLA, EOMI, MMM. Sclera anicteric, no 
conjunctival pallor. OP clear, trachea midline, no thyromegaly 
or cervical LAD.  
NECK: Supple, with flat JVP without evidence of HJR. Carotids 
benign bilaterally.  
CARDIAC: S1/S2. No m/r/g. tachy, irreg. irreg. PMI non-enlarged, 
non-displaced. No parasternal or subxiphoid heaves, precordial 
thrills, or palpable pulsations in the 3LICS. 
LUNGS: Lungs CTAPB without WRR. Resp unlabored, no accessory 
muscle use. 
ABDOMEN: Soft, NT, ND. BS + X4, No HSM or tenderness. Abd aorta 
not enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No CCE or edema. No femoral bruits. L femoral 
access site unremarkable.  
SKIN: No concerning lesions.

 
Pertinent Results:
___ 05:40AM BLOOD WBC-6.2 RBC-4.28* Hgb-14.6 Hct-43.0 
MCV-100* MCH-34.1* MCHC-34.0 RDW-13.1 Plt ___
___ 05:40AM BLOOD Glucose-84 UreaN-10 Creat-0.9 Na-139 
K-3.9 Cl-102 HCO3-30 AnGap-11
___ 05:40AM BLOOD ALT-15 AST-23 LD(LDH)-160 AlkPhos-78 
TotBili-0.7
___ 05:40AM BLOOD Albumin-4.6 Calcium-9.6 Phos-2.6* Mg-2.1
___ 05:40AM BLOOD %HbA1c-4.9 eAG-94
 
Brief Hospital Course:
This is a ___ man, h/o CAD, Afib with RVR, LBBB transferred 
here for AVR for possibly symptomatic AS.

# AS: Unclear if chest pain is related to angina from his AS or 
represents atypical chest pain. He has no other symptoms, 
including dyspnea on exertion, orthopnea, or 
pre-syncope/syncope. His valve area is in the severe category 
but his mean gradient is below it (34mmHg, severe is >40).
We consulted cardiac surgery, who advised aortic valve 
replacement for ___. We completed their 
recommended workup, which included lab studies and a dental 
x-ray. The staff dentist reviewed the x-ray and found that he 
requires a dental extraction prior to his surgery. Oral and 
maxillofacial surgery was consulted and they agreed to take him 
as an outpatient on ___.

#Afib: patient was in fibrillation during his hospital stay but 
had a normal ventricular rate. Patient's dabigatran was 
discontinued on ___ in preparation for his surgery.

#HTN: patient's blood pressure was well-controlled throughout 
his hospital stay.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dabigatran Etexilate 150 mg PO BID 
2. lisinopril-hydrochlorothiazide ___ mg Oral daily 
3. Ibuprofen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Dabigatran Etexilate 150 mg PO BID 
Please don't take this medication until after your surgery  
2. lisinopril-hydrochlorothiazide ___ mg Oral daily 
3. Ibuprofen 600 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic Stenosis
Secondary: atrial fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ Sr. ___:
Usted fur ___ hospital ___ tiene una 
valvula en el ___ no funciona bien. ___ una ___ para ___ del ___. 
Llegamos a ___ conclusion ___ seria mejor ___ usted regrese a 
casa ___ de ___, el 6 de septiembre, tiene usted una cita con ___ van a sacar una muela. NO COMA ___ 
___. 
PARA DE ___ HASTA ___ DE ___.
Usted tuvo un estudio ___ salio 
normal.
Si usted tiene dolor ___ de pecho, falta de respiracion, o 
mareos o desmayos, por favor ___ doctor ___ 911.
 
Followup Instructions:
___